US08138187B2
4-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)butanoic acid hydrochloride, 1 diastereomer
4-[(2-(4-Dimethylamino-4-phenylcyclohexyl)-1H-indol-3-yl)butanoic acid (340 mg, 0.81 mmol) was dissolved in ethyl acetate (50 ml). Me3SiCl (207 μl, 1.62 mmol) was then added dropwise at RT and the mixture was stirred for 16 h. The solvent distilled off on a rotary evaporator. Example 172 (370 mg, m.p. 227-230° C., 100%) was a beige-coloured solid.

reactant | (2-(4-Dimethylamino-4-phenylcyclohexyl)-1H-indol-3-yl)butanoic acid | 0.81 mmol, 340 mg | CN(C1(CCC(CC1)C=1NC2=CC=CC=C2C1C(C(=O)O)CC)C1=CC=CC=C1)C | C26H32N2O2
reactant | Me3SiCl | 1.62 mmol, 207 μl | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)butanoic acid hydrochloride | Cl.CN(C1(CCC(CC1)C=1NC2=CC=CC=C2C1CCCC(=O)O)C1=CC=CC=C1)C | InChI=1S/C26H32N2O2.ClH/c1-28(2)26(20-9-4-3-5-10-20)17-15-19(16-18-26)25-22(12-8-14-24(29)30)21-11-6-7-13-23(21)27-25;/h3-7,9-11,13,19,27H,8,12,14-18H2,1-2H3,(H,29,30);1H
